US04238505
A solution of 3.1 g (0.012 mole) of (2,4-difluoro[1,1'-biphenyl]-3-yl)methyl acetate in 25 ml of a 2% aqueous solution of sodium hydroxide and 75 ml of methanol was stirred at ambient temperature until the reaction was complete as indicated by thin layer chromatography. The reaction mixture was neutralized with glacial acetic acid and concentrated under reduced pressure to give a residual solid. The solid was partitioned between diethyl ether and water. The phases were separated and the aqueous phase was extracted with two portions of diethyl ether. The ether layers were combined and washed with one portion of 150 ml of 2% aqueous hydrochloric acid, one portion of 150 ml of water, one portion of 150 ml of a 10% aqueous solution of sodium carbonate, one portion of 150 ml of water, and finally, one portion of a saturated aqueous solution of sodium chloride. The organic layer was dried with magnesium sulfate, filtered, and the filtrate concentrated under reduced pressure to give 2.3 g of 2,4-difluoro[1,1'-biphenyl]-3-methanol. The nmr spectrum was consistent with the proposed structure.

reactant | (2,4-difluoro[1,1'-biphenyl]-3-yl)methyl acetate | 0.012 mole, 3.1 g | C(C)(=O)OCC=1C(=C(C=CC1F)C1=CC=CC=C1)F | C15H12F2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 75 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-difluoro[1,1'-biphenyl]-3-methanol | 2.3 g | FC1=C(C=CC(=C1CO)F)C1=CC=CC=C1 | C13H10F2O
